US03962376
Di-n-dodecyl 4-tert.-butyl-2,6-dimethyl-3-hydroxybenzylphosphonate
41 Grams of trilauryl phosphite and 16.1 grams of 6-tert.-butyl-3-chloromethyl-2,4-dimethylphenol were stirred together as a melt at 105° to 110° for 1 hour, followed by 110° to 120° for 2 hours, 120° to 125° for 10 hours and finally at 140° to 145° for 4 hours. The crude was topped in the "ASCO 50" Rotafilm Molecular Still at a wall temperature of 80° to 90° at 1 to 5 microns Hg. pressure to remove most of the by-product dodecyl chloride as well as small amounts of other volatiles. This topping procedure was repeated at a wall temperature of 200° to 210° at the same pressure to remove additional volatiles. The desired product distilled at a wall temperature of 250° to 260° at 1 micron Hg. pressure yielding the desired product as a colorless liquid which solidified to a white solid (m.p. 36° to 42°). (compound 3)

reactant | trilauryl phosphite | P(OCCCCCCCCCCCC)(OCCCCCCCCCCCC)OCCCCCCCCCCCC | C36H75O3P
reactant | 6-tert.-butyl-3-chloromethyl-2,4-dimethylphenol | 16.1 grams | C(C)(C)(C)C1=CC(=C(C(=C1O)C)CCl)C | C13H19ClO
product | Di-n-dodecyl 4-tert.-butyl-2,6-dimethyl-3-hydroxybenzylphosphonate | C(C)(C)(C)C1=C(C(=C(CP(OCCCCCCCCCCCC)(OCCCCCCCCCCCC)=O)C(=C1)C)C)O | C37H69O4P
